US07884207B2
Under a nitrogen atmosphere a mixture of tert-butyl 4-[(4-amino-2-ethyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]-4-hydroxypiperidine-1-carboxylate (6.00 g), aqueous hydrochloric acid (14 mL of 6M), and ethanol (56 mL) was heated at 50° C. overnight. The reaction mixture was concentrated under reduced pressure. The residue was concentrated from methanol 3 times, triturated with acetonitrile, isolated by filtration, washed with acetonitrile, and then dried under high vacuum to provide 5.55 g of 4-[(4-amino-2-ethyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]piperidin-4-ol dihydrochloride as a tan powder.

reactant | tert-butyl 4-[(4-amino-2-ethyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]-4-hydroxypiperidine-1-carboxylate | 6.00 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CC2(CCN(CC2)C(=O)OC(C)(C)C)O)CC | C22H30N6O3
reactant | hydrochloric acid | 6M, 14 mL | Cl | ClH
solvent | ethanol | 56 mL | C(C)O | C2H6O
product | 4-[(4-amino-2-ethyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]piperidin-4-ol dihydrochloride | 5.55 g | Cl.Cl.NC1=NC=2C=CC=NC2C2=C1N=C(N2CC2(CCNCC2)O)CC | InChI=1S/C17H22N6O.2ClH/c1-2-12-22-14-15(13-11(21-16(14)18)4-3-7-20-13)23(12)10-17(24)5-8-19-9-6-17;;/h3-4,7,19,24H,2,5-6,8-10H2,1H3,(H2,18,21);2*1H
